Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine
 
Attending: ___.
 
Chief Complaint:
post EGD monitoring

 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
___ complicated PMHx of morbid obesity (448 pounds at max) s/p 
multiple GI surgeries including J-tube c/b colonic perf, CCY and 
RNYGB with failed subsequent reversal and h/o recurrent 
esophageal candidiasis who presents for post-EGD monitoring. 

She underwent EGD on ___ for recurrent symptoms of burning 
mouth discomfort and dysphagia similar to her prior episodes of 
esophageal candidiasis.  She was seen in GI clinic on ___ ___. At the time, she presented with dysphagia and 
burning in her chest and abdomen. Her prior episodes of 
esophageal candidiasis have been treated with fluconazole 
although each episode was not necessarily confirmed by 
endoscopically. She was most treated empirically with 
fluconazole in ___ after which she experienced some symptom 
relief but only temporarily so. Because of her continued 
symptoms which have significantly affected her quality of life, 
she was scheduled for repeat EGD for re-evaluation today. Plan, 
per Dr. ___, was to treat with fluconazole vs 
econazole and optimize her antacid regimen pending EGD findings. 
 

Her EGD was notable for severe esophagitis of the mid to distal 
esophagus. The procedure was complicated by a superficial tear 
on withdrawal of the scope with active bleeding that was 
injected with epi and an endoclip was applied for hemostasis.

On arrival to the floor, pt reports some throbbing discomfort in 
her chest, ___. She reports this is since the EGD. She reports 
since ___ and milder throbbing in her chest that 
worsened over the last few wks which led to the EGD today. She 
reports she is otherwise feeling ok other than her chronic 
abdominal pain. She had nausea post-EGD that is now resolved.

 
Past Medical History:
1. Morbid obesity status post gastric bypass and cholecystectomy 
 
in ___ with subsequent reversal surgery at the ___ -  
multiple prior abdominal surgeries including a J-tube in ___  
with apparent complication of a perforated colon.  
2. DVT and PE in ___.  
3. DJD.  
4. History of SBO.  
5. Chronic pain.  
6. History of opiate addiction in the past 

 
Social History:
___
Family History:
Mother with diabetes and HTN. 
 
Physical Exam:
Admission PE:
Vitals: 98.5, 105/65, 71, 20, 100% RA
General: middle-aged female, sitting up in bed, in NAD
Neck: supple
CV: RRR, no murmurs
Lungs: CTAB, breathing comfortably
Abdomen: soft, nontender with light palpation, scars
Ext: WWP. no ___ edema
.
Discharge PE:
Vitals: afebrile, high ___, 60-80s, 97% RA
General: middle-aged female, sitting up in bed, in NAD
Neck: supple
CV: RRR, no murmurs
Lungs: CTAB, breathing comfortably
Abdomen: soft, nontender with light palpation, scars
Ext: WWP. no ___ edema

 
Pertinent Results:
Admission Labs:
___ 02:15PM BLOOD WBC-5.2 RBC-3.44* Hgb-11.3*# Hct-35.3*# 
MCV-102* MCH-32.9*# MCHC-32.1 RDW-13.3 Plt ___
___ 02:15PM BLOOD ___ PTT-40.3* ___
.
Other Labs:
___ 09:26PM BLOOD WBC-4.9 RBC-3.06* Hgb-10.4* Hct-30.9* 
MCV-101* MCH-34.0* MCHC-33.7 RDW-13.7 Plt ___
___ 06:25AM BLOOD WBC-4.6 RBC-3.30* Hgb-11.0* Hct-33.4* 
MCV-101* MCH-33.4* MCHC-33.0 RDW-13.5 Plt ___
___ 06:25AM BLOOD ___
.
- EGD: Severe esophagitis, ___ C, noted in the mid to 
distal esophagus.   
Evidence of a previous gastric surgical intervention was seen. 
The gastrojejunal anastamosis was carefully examined and 
appeared normal.   
On withdrawal of the gastroscope, a superfical tear was noted at 
the GE junction that was actively bleeding in the context of the 
patient's elevated INR and severe esophagitis. 1ml of 
epinephrine was injected and an endoclip was applied for 
hemostasis. 
Otherwise normal EGD to third part of the duodenum

 
Brief Hospital Course:
___ complicated PMHx of morbid obesity (448 pounds at max) s/p 
multiple GI surgeries including J-tube c/b colonic perf, CCY and 
RNYGB with failed subsequent reversal and h/o recurrent 
esophageal candidiasis who presents for post-EGD monitoring 
after a superficial tear was noted on scope withdrawal with 
active bleeding.
.
# Superficial tear s/p EGD: Active bleeding was noted with 
hemostasis after an epi injection and clipping. H/H monitored 
and was stable overnight. Pt hemodynamically stable and with no 
BMs and so GI felt comfortable with discharge. Pt initially on 
liquid diet and advanced to regular. Warfarin held but will be 
restarted in ___ on ___. 
Pt was tolerating some POs. She was complaining of increased 
pain and burning in her chest but this was felt to be related in 
large part to her severe esophagitis and GI did not feel this 
was a sign of a more serious complication from the EGD. We 
expect that pt may continue to complain of some increased pain 
and this will subside to baseline level of pain over next couple 
of days. She may have small amount of guiac positive stool given 
bleeding during EGD but she should not have recurrent amounts.
.
# Severe esophagitis: Pt put on IV PPI BID and will be 
discharged on omeprazole to 40mg po BID. Pt should continue 
sucralfate as well. GI recommended possible course of reglan but 
this was deferred because of risk of tardive dyskinesia in 
combination with seroquel. Pt given PRN viscous lidocaine.
.
# Chronic abd pain: cont methadone, oxycodone, tramadol; EKG 
checked and QTc 419
.
# H/o VTE: warfarin initially held and restarted on discharge
.
# Mood disorder: cont seroquel, clonazepam, BuPROPion, Doxepin 
.
>> Transitional issues:
# CODE STATUS: Full
# CONTACT: mother, ___ ___
# Increased dose of PPI + sucralfate
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q4H:PRN pain 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. Docusate Sodium 100 mg PO QHS 
4. Doxepin HCl 100 mg PO HS 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO BID 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Sucralfate 1 gm PO QID 
9. Ondansetron 4 mg PO Q6H:PRN nausea 
10. BuPROPion (Sustained Release) 150 mg PO BID 
11. ClonazePAM 1.5 mg PO QHS 
12. ClonazePAM 0.5 mg PO DAILY at 3pm 
13. QUEtiapine Fumarate 100 mg PO QAM 
14. QUEtiapine Fumarate 300 mg PO HS 
15. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
16. Senna 8.6 mg PO QHS 
17. FoLIC Acid 1 mg PO DAILY 
18. Lidocaine 5% Patch 1 PTCH TD QAM 
19. Furosemide 20 mg PO DAILY 
20. cranberry 2 tabs oral BID 
21. Methadone 20 mg PO Q8H 
22. Ascorbic Acid ___ mg PO TID 
23. Ferrous Sulfate 325 mg PO TID 
24. Vitamin D 50,000 UNIT PO MONTHLY 
25. OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN pain 
26. Calcium Carbonate 1000 mg PO QID:PRN GI distress 
27. Guaifenesin ___ mL PO Q6H:PRN cough 
28. Warfarin Dose is Unknown  PO DAILY16 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain 
2. Ascorbic Acid ___ mg PO TID 
3. BuPROPion (Sustained Release) 150 mg PO BID 
4. Calcium Carbonate 1000 mg PO QID:PRN GI distress 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Docusate Sodium 100 mg PO QHS 
7. Doxepin HCl 100 mg PO HS 
8. Ferrous Sulfate 325 mg PO TID 
9. FoLIC Acid 1 mg PO DAILY 
10. Lidocaine 5% Patch 1 PTCH TD QAM 
11. Methadone 20 mg PO Q8H 
12. Multivitamins 1 TAB PO DAILY 
13. OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN pain 
14. QUEtiapine Fumarate 100 mg PO QAM 
15. QUEtiapine Fumarate 300 mg PO HS 
16. Senna 8.6 mg PO QHS 
17. Sucralfate 1 gm PO QID 
18. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
19. ClonazePAM 1.5 mg PO QHS 
20. ClonazePAM 0.5 mg PO DAILY at 3pm 
21. cranberry 2 tabs oral BID 
22. Furosemide 20 mg PO DAILY 
23. Guaifenesin ___ mL PO Q6H:PRN cough 
24. Omeprazole 40 mg PO BID 
25. Ondansetron 4 mg PO Q8H:PRN nausea 
26. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
27. Vitamin D 50,000 UNIT PO MONTHLY 
28. Lidocaine Viscous 2% 15 mL PO TID:PRN esophagitis pain 
29. Warfarin 10 mg PO DAILY16 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Primary diagnosis: severe esophagitis, Superficial tear s/p EGD

Secondary diagnosis: Morbid obesity status post gastric bypass, 
h/o DVT/PE, chronic pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking in the hospital. You were admitted for 
monitoring after your EGD resulted in a small tear in your 
esophagus that was bleeding. This bleeding was stopped during 
the procedure and your blood counts were monitored and were 
stable. 

Please follow-up at the appointments listed below. Please see 
the attached list for updates to your home medications.
 
Followup Instructions:
___